US07700641B2
A. Synthesis of 1-(diphenylmethyl)-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2B, and making non-critical variations to replace 1,3-benzodioxol-5-ol with 2,3-dihydrobenzofuran-6-ol (Foster et al., J. Chem. Soc. 1948:2254-2258) and 1-(2-cyclopropylethyl)-1H-indole-2,3-dione with 1-(diphenylmethyl)-1H-indole-2,3-dione, the title compound was obtained (68%) as a white solid: MS (ES+) m/z 450.4 (M+1).

reactant | 1,3-benzodioxol-5-ol | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | 2,3-dihydrobenzofuran-6-ol | O1CCC2=C1C=C(C=C2)O | C8H8O2
reactant | 1-(2-cyclopropylethyl)-1H-indole-2,3-dione | C1(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | C13H13NO2
reactant | 1-(diphenylmethyl)-1H-indole-2,3-dione | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)=O)=O)C1=CC=CC=C1 | C21H15NO2
product | 1-(diphenylmethyl)-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)(C=1C(=CC2=C(CCO2)C1)O)O)=O)C1=CC=CC=C1 | C29H23NO4
